US06825170B2
Step A: 2-[4-[(E)-2-methoxyethenyl]phenyl]-pyrazine
Sodium hexamethyldisilazide (10.80 mL, 10.80 mmol, 1.0M in THF) was added to a suspension of methoxymethyltriphenylphosphonium chloride (3.72 g, 10.80 mmol) in THF (20 mL) at −10° C., and the red-orange mixture was stirred for 15 min at −10° C. A solution of 4-pyrazinylbenzaldehyde (1.00 g, 5.43 mmol) prepared as described in reference example 17) in THF (3 mL) was added dropwise, and stirring was continued at −10° C. for 1 h. The reaction mixture was quenched with sat. aq. NH4Cl, extracted with ethyl acetate, the organic layer dried with Na2SO4, and concentrated in vacuo. Purification by medium pressure liquid chromatography (SiO2, 3:1 hexane/ethyl acetate) yielded 820 mg (71%) of the title compound (E:Z=1:1). MS 213 (M+H)+.

reactant | Sodium hexamethyldisilazide | 10.80 mmol, 1.0M, 10.80 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | methoxymethyltriphenylphosphonium chloride | 10.80 mmol, 3.72 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 4-pyrazinylbenzaldehyde | 5.43 mmol, 1.00 g | N1=C(C=NC=C1)C1=CC=C(C=O)C=C1 | C11H8N2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 2-[4-[(E)-2-methoxyethenyl]phenyl]-pyrazine | 820 mg, 71% | CO/C=C/C1=CC=C(C=C1)C1=NC=CN=C1 | C13H12N2O
